US08859591B2
Step C: (+/−)-ethyl N-[4-(1-{[6-(4-cyclopropyl-1H-pyrazol-1-yl)pyridin-3-yl]amino}butyl)benzoyl]-beta-alaninate
To a mixture of ethyl 3-aminopropionate hydrochloride (31 mg, 0.27 mmol), (+/−)-4-(1-{[6-(4-cyclopropyl-1H-pyrazol-1-yl)pyridin-3-yl]amino}butyl)benzoic acid (0.050 g, 0.13 mmol), hydroxybenzotriazole hydrate (0.020 g, 0.13 mmol), and triethylamine (76 ul, 0.55 mmol) in dichloromethane (1.3 ml) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (38.9 g, 201 mmol) (28 mg, 0.15 mmol) at rt. The mixture was stirred for 2 hours at ambient temperature. The reaction was diluted with water and the organic layer was separated. The aqueous layer was extracted with dichloromethane (2×) and the combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo. The crude material was used without further purification.

reactant | ethyl 3-aminopropionate hydrochloride | 0.27 mmol, 31 mg | Cl.NCCC(=O)OCC
reactant | (+/−)-4-(1-{[6-(4-cyclopropyl-1H-pyrazol-1-yl)pyridin-3-yl]amino}butyl)benzoic acid | 0.13 mmol, 0.050 g | C1(CC1)C=1C=NN(C1)C1=CC=C(C=N1)NC(CCC)C1=CC=C(C(=O)O)C=C1 | C22H24N4O2
reactant | hydroxybenzotriazole hydrate | 0.13 mmol, 0.020 g | O.OC1=CC=CC=2NN=NC21
reactant | triethylamine | 0.55 mmol, 76 ul | C(C)N(CC)CC | C6H15N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 201 mmol, 38.9 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 1.3 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (+/−)-ethyl N-[4-(1-{[6-(4-cyclopropyl-1H-pyrazol-1-yl)pyridin-3-yl]amino}butyl)benzoyl]-beta-alaninate | C1(CC1)C=1C=NN(C1)C1=CC=C(C=N1)NC(CCC)C1=CC=C(C(=O)NCCC(=O)OCC)C=C1 | C27H33N5O3
